US08633190B2
Step 1: 4-(7-Benzyloxycarbonylamino-1-oxo-2-aza-spiro[4.5]dec-2-yl)-piperidine-1-carboxylic acid tert-butyl ester
Using the same experimental procedures described in the synthesis of intermediate 10, 2-(1-tert-Butoxycarbonyl-piperidin-4-yl)-1-oxo-2-aza-spiro[4.5]decane-7-carboxylic acid (mixture of cis and trans diastereomers) was made from 7.40 mmol of 1-(2-oxo-ethyl)-cyclohexane-1,3-dicarboxylic aid diethyl ester and 7.40 mmol of 4-amino-1-Boc-piperidine. 2-(1-tert-Butoxycarbonyl-piperidin-4-yl)-1-oxo-2-aza-spiro[4.5]decane-7-carboxylic acid (1.24 g, 3.25 mmol) was dissolved in toluene (20.0 mL), triethylamine (0.54 mL, 3.90 mmol) was added, followed by the addition of diphenylphosphonic azid (0.70 mL, 3.25 mmol). The mixture was stirred at rt for 1.5 hrs, and then heated at 90° C. for 2 hrs. Benzyl alcohol (2.0 mL, 19.5 mmol) was added, and the mixture was heated at 90° C. overnight. The mixture was cooled down, concentrated under reduce pressure to afford 0.85 g (54%) of the title compound which is a mixture of two diastereomers (cis/trns: 1/1; under LC-MS method C, the first peak with RT of 1.56 min was assigned as cis, and the second peak with RT of 1.59 min was assigned as trans.). ESI-MS m/z: 486 (M+H)+.

reactant | 2-(1-tert-Butoxycarbonyl-piperidin-4-yl)-1-oxo-2-aza-spiro[4.5]decane-7-carboxylic acid | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(C2(CC1)CC(CCC2)C(=O)O)=O | C20H32N2O5
reactant | 4-amino-1-Boc-piperidine | 7.40 mmol | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | 2-(1-tert-Butoxycarbonyl-piperidin-4-yl)-1-oxo-2-aza-spiro[4.5]decane-7-carboxylic acid | 3.25 mmol, 1.24 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(C2(CC1)CC(CCC2)C(=O)O)=O | C20H32N2O5
reactant | triethylamine | 3.90 mmol, 0.54 mL | C(C)N(CC)CC | C6H15N
reactant | Benzyl alcohol | 19.5 mmol, 2.0 mL | C(C1=CC=CC=C1)O | C7H8O
solvent | toluene | 20.0 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(7-Benzyloxycarbonylamino-1-oxo-2-aza-spiro[4.5]dec-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | 0.85 g, 54% | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(C2(CC1)CC(CCC2)NC(=O)OCC2=CC=CC=C2)=O | C27H39N3O5
